US08686024B2
Synthesis of 1-benzylindolin-5-yl cyclohexylcarbamate
The title compound was synthesized from 1-benzylindolin-5-ol (35.0 mg, 0.155 mmol) using the same procedure employed for Example 2 (2), but with cyclohexylisocyanate instead of 4-isopropylphenylisocyanate. The product was obtained as a white solid (14.8 mg, 27%) having the following characteristics.

reactant | 1-benzylindolin-5-ol | 0.155 mmol, 35.0 mg | C(C1=CC=CC=C1)N1CCC2=CC(=CC=C12)O | C15H15NO
reactant | cyclohexylisocyanate | C1(CCCCC1)N=C=O | C7H11NO
product | 1-benzylindolin-5-yl cyclohexylcarbamate | C1(CCCCC1)NC(OC=1C=C2CCN(C2=CC1)CC1=CC=CC=C1)=O | C22H26N2O2
